US08133882B2
To a 4 ml ethanol solution of 220 mg of 3-amino-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one was added 105 mg of 1H-1,2,3-benzotriazol-1-ylmethanol, followed by overnight stirring at room temperature. Next, 48 mg of sodium borohydride was added to the reaction mixture, followed by stirring for 3 hours. By adding water to the resulting reaction mixture and collecting the insoluble materials by filtration, 100 mg of 7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-3-(methylamino)quinolin-4(1H)-one was obtained.

reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | 3-amino-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one | 220 mg | NC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC | C20H28FN3O
reactant | 1H-1,2,3-benzotriazol-1-ylmethanol | 105 mg | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
reactant | sodium borohydride | 48 mg | [BH4-].[Na+]
solvent | water | O | H2O
product | 7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-3-(methylamino)quinolin-4(1H)-one | 100 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)NC)=O)F | C21H30FN3O
